US07435815B2
2-[[(Benzyl-ethyl-carbamoyl)-methyl]-(4-tert-butyl-benzenesulfonyl)-amino]-benzamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(2-carbamoyl-phenyl)-amino]-acetic acid with benzyl-ethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(2-carbamoyl-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C=CC=C1)C(N)=O)CC(=O)O | C19H22N2O5S
reactant | benzyl-ethyl-amine | C(C1=CC=CC=C1)NCC | C9H13N
product | 2-[[(Benzyl-ethyl-carbamoyl)-methyl]-(4-tert-butyl-benzenesulfonyl)-amino]-benzamide | C(C1=CC=CC=C1)N(C(=O)CN(C1=C(C(=O)N)C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)CC | C28H33N3O4S
